US07189716B2
4-[2-(3–Chloro-phenyl)-2(S)-hydroxy-ethylamino]-3-(6-methyl-2-piperazin-1-yl-9H-purin-8-yl)-1H-pyridin-2-one:
To a solution of 4-(8-{4-[2-(3–Chloro-phenyl)-2(S)-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-methyl-9H-purin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (72 mg, 0.124 mmol) in CH2Cl2 (30 mL) was added benzenesulfonyl fonctionalized silica gel, 0.79 meq/g (7.2 g). The heterogeneous mixture was stirred at 23° C. for 16 hours. The solvent was removed by filtration and the silica gel was washed with a mixture of ammonia 2N in MeOH:CH2Cl2 (1:1, 20 mL). The ammoniac solution was evaporated in vacuo to give the title compound as a light yellow solid. (0.053 g, 89%). HPLC 98%; LCMS (+ESI, M+H+) m/z 481; IR (KBr, cm−1) 3262, 2922, 1646, 1597, 1489, 1232; 1H NMR (400 MHz, DMSO+D2O) δ 10.80 (br s, 1H), 7.59–7.29 (m, 5H), 6.23 (d, J=8.2 Hz, 1H), 5.00 (br t, 1H), 3.75 (br s, 4H), 3.62 (m, 1H), 2.89 (br s, 4H), 2.60 (s, 3H); HRMS calcd for C23H25ClN8O2: 480.1789; found 480.1804.

reactant | 4-(8-{4-[2-(3–Chloro-phenyl)-2(S)-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-methyl-9H-purin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.124 mmol, 72 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C2N=C(NC2=N1)C=1C(NC=CC1NC[C@@H](O)C1=CC(=CC=C1)Cl)=O)C | C28H33ClN8O4
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(3–Chloro-phenyl)-2(S)-hydroxy-ethylamino]-3-(6-methyl-2-piperazin-1-yl-9H-purin-8-yl)-1H-pyridin-2-one | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C=1NC2=NC(=NC(=C2N1)C)N1CCNCC1)O | C23H25ClN8O2
